US07691892B2
l) 4-(4-Cyclopropyl-5-{1-[2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-yl]-ethoxy}-4H-[1,2,4]triazol-3-yl)-pyridine
The title compound is prepared from 1-[2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-yl]-ethanol (1 mmol), sodium hydride (1.5 mmol) and 4-(4-cyclopropyl-5-methanesulfonyl-4H-[1,2,4]triazol-3-yl)-pyridine (1.25 mmol).

reactant | 1-[2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-yl]-ethanol | 1 mmol | FC1=C(C=C(C=C1)C)N1N=C(N=N1)C(C)O | C10H11FN4O
reactant | sodium hydride | 1.5 mmol | [H-].[Na+]
reactant | 4-(4-cyclopropyl-5-methanesulfonyl-4H-[1,2,4]triazol-3-yl)-pyridine | 1.25 mmol | C1(CC1)N1C(=NN=C1S(=O)(=O)C)C1=CC=NC=C1 | C11H12N4O2S
product | 4-(4-Cyclopropyl-5-{1-[2-(2-fluoro-5-methyl-phenyl)-2H-tetrazol-5-yl]-ethoxy}-4H-[1,2,4]triazol-3-yl)-pyridine | C1(CC1)N1C(=NN=C1OC(C)C=1N=NN(N1)C1=C(C=CC(=C1)C)F)C1=CC=NC=C1 | C20H19FN8O
